US07045516B1
(b) 4-Chloro-2-nitro-6-methoxyphenol
4-Chloro-2-methoxyphenol (1.77 g) was dissolved in acetic acid (18 mL). To this solution, a separately prepared nitric acid solution (mixture of 70% nitric acid (1.88 mL) and acetic acid (5 mL)) was added under ice cooling with stirring. The mixture was stirred at room temperature for 1 hour, diluted with ethyl acetate, and washed with water. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to obtain a crude product. This product was purified by silica gel chromatography (ethyl acetate:n-hexane=4:1 v/v) to obtain the title compound (1.8 g).

reactant | 4-Chloro-2-methoxyphenol | 1.77 g | ClC1=CC(=C(C=C1)O)OC | C7H7ClO2
reactant | nitric acid | 1.88 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 18 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Chloro-2-nitro-6-methoxyphenol | 1.8 g | ClC1=CC(=C(C(=C1)OC)O)[N+](=O)[O-] | C7H6ClNO4
